US09359549B2
Synthesis of 3-phenylbenzofuro[3,2-c]pyridine
3-chlorobenzofuro[3,2-c]pyridine (2.89 g, 14 mmol), phenylboronic acid (2.56 g, 21 mmol), potassium phosphate (9.6 g, 42 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (0.45 g, 1.12 mmol) and Pd2(bda)3 (0.256 g, 0.28 mmol) were to toluene (100 mL) and water (10 mL). Nitrogen was bubbled through the solution for 30 minutes and then the solution was refluxed for overnight in an atmosphere of nitrogen. The reaction was then allowed to cool to room temperature and the organic phase was separated from the aqueous phase. The aqueous phase was washed with ethyl acetate and the organic fractions were combined and dried over sodium sulfate and the solvent removed under vacuum. The product was chromatographed using silica gel with ethyl acetate and hexanes as the eluent. The solvent was removed to give 2.77 g of title compound.

reactant | 3-chlorobenzofuro[3,2-c]pyridine | 14 mmol, 2.89 g | ClC1=CC2=C(C=N1)C1=C(O2)C=CC=C1 | C11H6ClNO
reactant | phenylboronic acid | 21 mmol, 2.56 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium phosphate | 42 mmol, 9.6 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 1.12 mmol, 0.45 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | water | 10 mL | O | H2O
product | 3-phenylbenzofuro[3,2-c]pyridine | 2.77 g | C1(=CC=CC=C1)C1=CC2=C(C=N1)C1=C(O2)C=CC=C1 | C17H11NO
